US06136823
Synthesis of 2-Fluoro-5-methoxy-3-methyl-4-nitrobenzoic Acid
Sodium methoxide (28% methanol solution; 1.66 g) was added to a solution of methyl 2,5-difluoro-3-methyl-4-nitrobenzoate (1.0 g) in acetonitrile (5 ml) under ice cooling, and the mixture was stirred for 1 hour at 0° C. and for 2 hours at 50° C. The reaction mixture was additionally stirred overnight at room temperature and then poured into ice water. The mixture was acidified with citric acid and then extracted with diethyl ether. An organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Diethyl ether was added to the residue, and insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure to obtain the title compound (1.1 g).

reactant | Sodium methoxide | 1.66 g | C[O-].[Na+]
reactant | methyl 2,5-difluoro-3-methyl-4-nitrobenzoate | 1.0 g | FC1=C(C(=O)OC)C=C(C(=C1C)[N+](=O)[O-])F | C9H7F2NO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-Fluoro-5-methoxy-3-methyl-4-nitrobenzoic Acid | 1.1 g | FC1=C(C(=O)O)C=C(C(=C1C)[N+](=O)[O-])OC | C9H8FNO5
